US06255502B1
Salbutamol base (1.2007 g; 5.02 mmol) was dissolved in ethanol (100 mL) with vigorous stirring. Glycodeoxycholic acid (2.4601 g; water content: 4.25% w/w; 5.25 mmol˜5% molar excess) was added and dissolved with stirring. A clear, colourless solution was obtained. The ethanol was removed by vacuum rotary-evaporation to give a viscous, yellow residue. Ethyl acetate (200 mL) was added to the residue and the mixture heated in a water bath with constant agitation. As the yellow residue dissolved, a white precipitate formed. Agitation was continued until the yellow residue disappeared. The ethyl acetate solution was cooled in an ice bath. The precipitate was isolated by vacuum filtration and dried in a vacuum oven at 40° C. for 20 hours to give salbutamol glycodeoxycholate (3.662 g; water content; 4.95% w/w; % yield; 97.9%). Analysis by differential scanning calorimetry from 50 to 200° C. gave no significant thermal event. Slow decomposition was evident after 110° C. A saturated aqueous solution gave a pH of 6.12. The aqueous solubility was greater than 8.35 mg/mL. The theoretical percentage of salbutamol base in the salbutamol glycodeoxycholate 34.74%.

reactant | Salbutamol | 5.02 mmol, 1.2007 g | CC(C)(C)NCC(C=1C=CC(=C(C1)CO)O)O | C13H21NO3
reactant | Glycodeoxycholic acid | 2.4601 g | C[C@H](CCC(=O)NCC(=O)O)[C@H]1CC[C@@H]2[C@@]1([C@H](C[C@H]3[C@H]2CC[C@H]4[C@@]3(CC[C@H](C4)O)C)O)C | C26H43NO5
reactant | Ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | salbutamol glycodeoxycholate | 3.662 g, yield; 97.9% | CC(C)(C)NCC(C=1C=CC(=C(C1)CO)O)O.C[C@H](CCC(=O)NCC(=O)O)[C@H]1CC[C@@H]2[C@@]1([C@H](C[C@H]3[C@H]2CC[C@H]4[C@@]3(CC[C@H](C4)O)C)O)C | InChI=1S/C26H43NO5.C13H21NO3/c1-15(4-9-23(30)27-14-24(31)32)19-7-8-20-18-6-5-16-12-17(28)10-11-25(16,2)21(18)13-22(29)26(19,20)3;1-13(2,3)14-7-12(17)9-4-5-11(16)10(6-9)8-15/h15-22,28-29H,4-14H2,1-3H3,(H,27,30)(H,31,32);4-6,12,14-17H,7-8H2,1-3H3/t15-,16-,17-,18+,19-,20+,21+,22+,25+,26-;/m1./s1
